US06162937
Formalin (37% aq. solution, 0.28 g, 3.47 mmol) was added to a mixture of 4,7-dimethylindene (1.0 g, 6.94 mmol) and EtONa (0.15 g, 2.20 mmol) in dimethylsulphoxide (10 mL) at 25° C. After stirring at room temperature for 12 hours, the reaction mixture was heated at 80° C. for further 4 hours and then cooled to room temperature. A solution of HCl (1 M, 10 mL) was added. The mixture was extracted with CH2Cl2 (2×50 mL); the organic phases were combined, washed with a saturated solution of NaCl and then with water, dried over anhydrous MgSO4, filtered and finally concentrated to yield a brown solid (GC analysis shows 75% conversion). After washing with MeOH, bis(4,7-dimethyl-3-indenyl)methane was isolated as a yellow solid (0.52 g; yield 50%).

reactant | Formalin | 3.47 mmol, 0.28 g | C=O | CH2O
reactant | 4,7-dimethylindene | 6.94 mmol, 1.0 g | CC1=C2C=CCC2=C(C=C1)C | C11H12
reactant | EtONa | 2.20 mmol, 0.15 g | CC[O-].[Na+]
reactant | HCl | 1 M, 10 mL | Cl | ClH
solvent | dimethylsulphoxide | 10 mL | CS(=O)C | C2H6OS
product | bis(4,7-dimethyl-3-indenyl)methane | yield 50% | CC1=C2C(=CCC2=C(C=C1)C)CC1=CCC2=C(C=CC(=C12)C)C | C23H24
